US07560462B2
Step 4. 5-Methyl-2-pyridin-3-ylethynyl-phenylamine
To a solution of 3-(4-methyl-2-nitro-phenylethynyl)-pyridine (1 mmol) in MeOH (1 mL) was added 0.5 mL sat'd NH4Cl followed by zinc dust (0.33 g, 5.0 mmol). The mixture was stirred for 10 min, then diluted with EtOAc (50 mL) and Na2CO3 (50 mL of 10% aqueous solution). The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure to yield the desired material as a clear oil.

reactant | 3-(4-methyl-2-nitro-phenylethynyl)-pyridine | 1 mmol | CC1=CC(=C(C=C1)C#CC=1C=NC=CC1)[N+](=O)[O-] | C14H10N2O2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
solvent | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | zinc | 5.0 mmol, 0.33 g | [Zn] | Zn
product | 5-Methyl-2-pyridin-3-ylethynyl-phenylamine | CC=1C=CC=C(C1)NC#CC=1C=NC=CC1 | C14H12N2
